Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
DVT
 
Major Surgical or Invasive Procedure:
EGD

 
History of Present Illness:
This is a ___ y/o female with PMHx significant for CAD, HTN, HLD, 
T2DM, CKD stage IV, PVD (s/p in ___, left superficial femoral 
artery), presents with lower Left leg numbness and pain since 
yesterday evening. The numbness started last night in bed. The 
onset was gradual, and it was associated with pain/cramping over 
her lateral calf, radiating down into her foot. She has had sx 
like this before, usually when resting or lying in bed, not with 
exertion. She denies leg weakness at this time, and is able to 
walk without assistance. Today the pain and numbness is 
improved; residual numbness in her lateral calf. Denies hx DVT. 
Denies spine sx: no trauma, no back pain, no incontinence, no 
fevers/chills. No numbness elsewhere. Additionally, she denies 
headache, visual changes, chest pain, chest pressure, chest 
palpitations, shortness of breath abdominal pain, dysuria, or 
diarrhea. 
 
Past Medical History:
- hypertension  
- diabetes  
- hx CVA (cerebellar-medullary stroke in ___  
- CAD (hx of MI in ___ BMS to circumflex and POBA ___  
- peripheral arterial disease- claudication, followed by 
vascular, managed conservatively
- stage IV CKD (baseline 2.1-2.6)  
- GERD/esophageal rings
 
Social History:
___
Family History:
Niece had some sort of cancer. Father died in his ___ due to 
lung disease.  Mother died in her ___ due to an unknown cause.  
No early CAD or sudden cardiac death. No other known history of 
cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Vitals: 97.7, 166/85, 59, 16, 100% on RA.  
General: Pleasant affect, laying in bed, resting comfortably in 
NAD.  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Minimal bibasilar crackles improved with cough.  
Abdomen: obese abdomen, soft, non-tender, non-distended, no 
rebound or guarding.  
Ext: Warm, well perfused, 1+ pulses, right calf swelling greater 
than left calf swelling. No calf tenderness to palpation. Thick 
toenails, dry skin along toes. Hallux valgus.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation. 

DISCHARGE PHYSICAL EXAM
Vitals:  Tmax 99.1 HR ___ BP 97-168/50s-70s RR 18 SpO2 
97-100%RA
FSG 90-307
General: Pleasant affect, laying in bed, resting comfortably in 
NAD.  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: clear to auscultation in all fields without wheezes or 
ronchi
Abdomen: obese abdomen, soft, non-tender, non-distended, no 
rebound or guarding.  
Ext: Warm, well perfused, dopplerable pulses ___ on RLE, 
dopplerable ___ pulse on LLE, dopplerable DP pulse on LLE, R 
radial pulse 2+, L radial pulse 1+, mild right calf swelling 
greater than left calf swelling. No calf tenderness to 
palpation. No pain to palpation on left dorsal and lateral foot 
- callous present on left lateral foot. Thick toenails, dry skin 
along toes. Non-tender indurated cord in left antecubital fossa.
Neuro: alert and oriented x 3, CNII-XII intact, ___ RUE, ___ 
strength LUE, ___ hip flexor strength, ___ dorsi and plantar 
flexion of bilateral lower extremities (4+/5 on right lower 
extremity, 4- on LLE), fine touch sensation on extremities 
bilaterally 

 
Pertinent Results:
ADMISSION LABS:

___ 02:45PM BLOOD WBC-5.1 RBC-2.50* Hgb-7.7* Hct-23.4* 
MCV-94 MCH-30.8 MCHC-32.9 RDW-14.7 RDWSD-50.0* Plt ___
___ 02:45PM BLOOD Neuts-74.4* Lymphs-15.1* Monos-7.7 
Eos-2.4 Baso-0.2 Im ___ AbsNeut-3.79 AbsLymp-0.77* 
AbsMono-0.39 AbsEos-0.12 AbsBaso-0.01
___ 02:45PM BLOOD ___ PTT-26.1 ___
___ 02:45PM BLOOD Glucose-107* UreaN-72* Creat-2.9* Na-141 
K-4.3 Cl-108 HCO3-21* AnGap-16
___ 02:45PM BLOOD calTIBC-303 Ferritn-153* TRF-233

PERTINENT LABS/IMAGING:

-She received 1U pRBCs on admission on ___ 07:00AM BLOOD WBC-6.0 RBC-2.83* Hgb-8.7* Hct-26.3* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-14.7 RDWSD-50.2* Plt ___
-She had one large episode of coffee ground emesis-
___ 05:10PM BLOOD WBC-5.6 RBC-2.44* Hgb-7.4* Hct-22.7* 
MCV-93 MCH-30.3 MCHC-32.6 RDW-14.7 RDWSD-49.8* Plt ___
-She received 500cc NS and 2UpRBCs-
___ 07:45AM BLOOD WBC-5.7 RBC-3.49*# Hgb-10.7*# Hct-32.3* 
MCV-93 MCH-30.7 MCHC-33.1 RDW-14.9 RDWSD-49.1* Plt ___

___ bilateral lower extremity doppler U/S
IMPRESSION:  
1.  Deep venous thrombosis in the bilateral posterior tibial 
veins. 
2.  2.0 x 1.3 x 1.8 cm right-sided ___ cyst. 

EGD ___
Small amount of hematin without evidence of ulceration or active 
bleeding seen at the GE junction.
The stomach is significantly deformed. Diffuse erythema and 
superficial ulcerations in the stomach consistent with severe 
gastritis. No active bleeding identified.
Medium hiatal hernia
Erythema and superficial ulcerations in the duodenal bulb 
consistent with duodenitis.
Otherwise normal EGD to third part of the duodenum

___ Left upper extremity ultrasound
IMPRESSION:  
1.  No evidence of deep vein thrombosis in the left upper 
extremity. 
2.  Likely evolving hematoma in the left antecubital fossa. 

___ CT head non contrast
IMPRESSION: 1. No evidence of acute infarction, hemorrhage, 
fractures. 

DISCHARGE LABS:
___ 07:30AM BLOOD WBC-5.8 RBC-2.44* Hgb-7.4* Hct-22.9* 
MCV-94 MCH-30.3 MCHC-32.3 RDW-14.6 RDWSD-50.2* Plt ___
___ 07:30AM BLOOD Plt ___
___ 07:30AM BLOOD Glucose-78 UreaN-45* Creat-1.7* Na-142 
K-4.7 Cl-109* HCO3-20* AnGap-18
___:30AM BLOOD Calcium-9.4 Phos-4.5 Mg-2.0
___ 07:30AM BLOOD EDTA ___
 
Brief Hospital Course:
Outpatient Providers: ___ with PMHx significant for CAD, HTN, 
HLD, T2DM, CKD stage IV, PVD (s/p in ___, left superficial 
femoral artery), presents with lower left leg numbness and pain, 
found to have bilateral unprovoked DVT. She was treated with a 
heparin drip and had many bleeding events during her stay: she 
developed an upper GIB, had an EGD, and was followed by GI 
during her admission. The heparin drip was stopped and then 
re-started once her coffee-ground emesis resolved. Her stools 
were guiac positive, however no active blood was found on rectal 
exam. GI felt that colonoscopy could be deferred to out patient. 
Additionally she developed a left arm hematoma. The heparin drip 
was stopped and then re-started once her hematoma was felt to be 
stable. She had left radial as well as bilateral lower extremity 
___ dopplerable pulses throughout admission. Hematology was 
consulted after the patient developed a left arm hematoma and 
the drip was slowly uptitrated as per their recommendations. She 
was successfully bridged to coumadin with an INR on discharge of 
2.0. She was discharged to rehab as per ___ recs. 

Please see below for a more problem based/detailed summary and 
transitional issues.

=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================

___ y/o female with PMHx significant for CAD, HTN, HLD, T2DM, CKD 
stage IV, PVD (s/p in ___, left superficial femoral artery), 
presented with lower Left leg numbness and pain since yesterday 
evening, with ultrasound bilateral lower extremities showing 
bilateral posterior tibial veins DVT's.

# Unprovoked Bilateral DVTs: No clinical signs of PE on 
admission or during stay, positive bilateral DVTs on LENIs. Pain 
and swelling improved on anticoagulation. Patient was bridged 
with heparin drip to therapeutic warfarin with INR goal ___. Due 
to continually supratherapeutic PTT > 150 on heparin drip, 
hematology was consulted and no further workup was deemed 
necessary. Heparin drip was carefully uptitrated as needed. 
Clopidogrel was stopped per outpatient cardiologist. Patient 
will need age-appropriate cancer screening including colonoscopy 
and mammogram. Patient will follow-up in ___ clinic for 
anticoagulation management and should continue on warfarin for 
at least 3 months. 

# Upper GI bleed: Patient developed 1 episode large coffee 
ground emesis while on heparin drip with PTT > 150. Received 2U 
pRBCs. GI consulted and EGD showed gastritis and superficial 
erosions but no active bleeding. Incidental finding of medium 
sized hiatal hernia. Stool h. pylori antigen was negative. GI 
recommended 8 weeks of high dose PPI.

# Left antecubital hematoma: Patient developed large left 
antecubital hematoma in setting of phlebotomy and PTT > 150 on 
heparin gtt. Heparin gtt held while hematoma improved. Repeat 
h/h were stable. 

# Acute on CKD Stage IV: Patient with creatinine of 2.9 on 
admission with baseline 2.0-2.5. Improved with hydration. Home 
lasix and lisinopril were initially held. Home lasix restarted 
on discharge at 20mg daily. 

# Normocytic Anemia: Patient has normocytic anemia. Rectal exam 
in ED was guaiac negative. In past treated with aransep as well 
as EPO. Etiology likely related to underlying CKD, however also 
must consider slow GI bleed (patient has gastritis/duodenitis on 
EGD but no evidence of active bleeding. Iron studies were 
normal. 

# HFpEF: Home furosemide and Lisinopril were held on admission 
for ___ followed by GI bleed. Carvedilol and nifedine were held 
in setting of GIB (see above). Nifedipine was restarted at 30mg 
bid and lasix was decreased from 40mg to 20mg daily.

# CAD: hx of MI in ___ BMS to circumflex and POBA ___. Per 
discussions with Dr. ___, patient's cardiologist, 
clopidogrel was held given GI bleed and initiation of warfarin. 
Lasix initially held as above, but restarted on discharge at 
20mg daily. Home ASA, statin, and carvedilol were continued. 

# HTN: Nifedipine was decreased to 30mg BID from 60mg BID given 
multiple bleeding episodes and normal blood pressures. Home 
carvedilol continued. Patient's nifedipine was decreased to 30mg 
daily given acute bleed and SBPs in the ___
Lasix was decreased from 40 daily to 20 daily.
 
# Diabetes Mellitus: Stable on home 30 units 70/30 insulin at 
bedtime.  

TRANSITIONAL ISSUES:
- Out patient hypercoaguability work up including screening 
colonoscopy (last in ___ and mammogram
- Patient will need to complete an 8 week course of high dose 
PPI (started 40mg pantoprazole PO twice daily on ___ with 
projected end date ___ for upper GI bleed likely from 
gastritis.
- Patient's hypertension medications (Lisinopril and nifedipine) 
were held due to upper GI bleed.
- Patient's furosemide was decreased to 20mg daily
- Patient's nifedipine was decreased to 30mg daily given acute 
bleed and SBPs in the ___
- Patient was started on Coumadin. Clopidogrel was stopped per 
cardiology. ASA 81mg was continued.
- Please address patient's home environment for fall risk given 
recent "trip" at home and new anticoagulation.
- please ensure patient has outpatient anticoagulation follow-up 
and management upon discharge from rehab
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 12.5 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Furosemide 40 mg PO DAILY 
7. Ranitidine 150 mg PO DAILY:PRN reflux 
8. Aspirin 81 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Vitamin D ___ UNIT PO DAILY 
11. NIFEdipine CR 60 mg PO BID 
12. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
13. 70/30 30 Units Dinner

 
Discharge Medications:
1. Allopurinol ___ mg PO EVERY OTHER DAY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Carvedilol 12.5 mg PO BID 
5. 70/30 30 Units Dinner
6. Lisinopril 40 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. NIFEdipine CR 30 mg PO BID 
9. Vitamin D ___ UNIT PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Gabapentin 100 mg PO QHS neuropathic pain 
12. Pantoprazole 40 mg PO Q12H 
13. Senna 8.6 mg PO BID constipation 
14. Warfarin 5 mg PO DAILY16 
please dose and adjust for INR 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Furosemide 20 mg PO DAILY 
17. Polyethylene Glycol 17 g PO DAILY 
18. Acetaminophen 325-650 mg PO Q6H:PRN pain or fever 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Deep vein thrombosis (DVT)

Secondary:
Upper GI bleed
L arm hematoma
Superficial thrombophlebitis, L antecubital fossa
Chronic kidney disease (Stage IV)
Peripheral vascular disease
Diabetes mellitus type II
Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___. You were admitted for 
leg swelling and pain. Diagnostic tests were performed and you 
were diagnosed with deep vein thrombosis, blood clots in your 
legs. You were treated with blood thinning medications that you 
will continue at home. You had an episode of upper GI bleeding 
during your stay for which you are being treated with medication 
and you underwent an EGD. You developed a left arm hematoma as 
well during your stay which will resolve on its own over time.

For your blood clots, you were started on a new drug called 
warfarin. You will need to have your blood checked to adjust the 
dosing. For your upper GI bleed, you were started on 
Pantoprazole 40mg twice daily. You will continue this drug as an 
outpatient for at least 8 weeks. Additionally, you will no 
longer be taking Clopidogrel (Plavix), until you speak with your 
cardiologist.

It was a pleasure taking care you during your hospital stay.

Best wishes,

Your ___ Care Team
 
Followup Instructions:
___